US05958375
e. 3-Acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline
3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)-2,4,6-triiodoaniline (1.32 g, 2.1 mmol) was dissolved in pyridine (10 ml) containing acetic anhydride (10 ml). The mixture was stirred at room temperature for 2 h and CH2Cl2 (100 ml) and the solution was washed with water (3×25 ml). The organic phase was washed with water (3×50 ml) and a saturated aqueous solution of NaHCO3 (2×50 ml). After drying (Na2SO4) and evaporation, the residue was purified by flash chromatography on a silica column using a mixture of CH2Cl2 and methanol (95:5) as the eluent. Yield: 1.30 g (82%).

reactant | 3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)-2,4,6-triiodoaniline | 2.1 mmol, 1.32 g | OCC=1C(=C(N)C(=C(C1I)C(=O)NCC(CO)O)I)I | C11H13I3N2O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline | C(C)(=O)OCC=1C(=C(N)C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)I | C17H19I3N2O7
